US07598257B2
Step 2. 4-(2-Bromo-1,3-thiazol-5-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine
2.5 M n-Butyllithium in hexane (0.860 mL) was added dropwise to a −78° C. solution of 4-(1,3-thiazol-5-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine (550 mg, 0.0016 mol) in THF (20 mL). The mixture was stirred for 30 minutes at −78° C., followed by the slow addition of carbon tetrabromide (658 mg, 0.00198 mol) as a solution in THF (10 mL). After 30 minutes, the mixture was quenched with a small amount of saturated ammonium chloride, diluted with ether, and dried over sodium sulfate. The residue obtained after filtration and concentration was purified by flash column chromatography (ethyl acetate/hexanes) to afford the desired product (387 mg, 57%).

reactant | n-Butyllithium | 2.5 M | C(CCC)[Li]
reactant | 4-(1,3-thiazol-5-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.0016 mol, 550 mg | S1C=NC=C1C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H20N4OSSi
reactant | carbon tetrabromide | 0.00198 mol, 658 mg | C(Br)(Br)(Br)Br | CBr4
solvent | hexane | 0.860 mL | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2-Bromo-1,3-thiazol-5-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 387 mg, 57% | BrC=1SC(=CN1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H19BrN4OSSi
